US07253158B2
4-Chloro-N-(2-oxo-azepan-3-yl)-benzenesulfonamide (1.21 g, 4.00 mmol), 4-(bromomethyl)-benzonitrile (0.79 g, 4.00 mmol), potassium carbonate (5.58 g, 40.0 mmol) and potassium iodide (0.13 g, 0.80 mmol) in 200 ml dimethylformamide were stirred at 65° C. for 16 hours. Extraction with water/ethylacetate and chromatography on silicagel with ethylacetate yielded 1.05 g (63%) 4-chloro-N-(4-cyano-benzyl)-N-(2-oxo-azepan-3-yl)-benzenesulfonamide as white solid, MS: m/e (%)=418.1 (MH+, 100).

reactant | 4-Chloro-N-(2-oxo-azepan-3-yl)-benzenesulfonamide | 4.00 mmol, 1.21 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1C(NCCCC1)=O | C12H15ClN2O3S
reactant | 4-(bromomethyl)-benzonitrile | 4.00 mmol, 0.79 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | potassium carbonate | 40.0 mmol, 5.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.80 mmol, 0.13 g | [I-].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-chloro-N-(4-cyano-benzyl)-N-(2-oxo-azepan-3-yl)-benzenesulfonamide | 1.05 g, 63% | ClC1=CC=C(C=C1)S(=O)(=O)N(C1C(NCCCC1)=O)CC1=CC=C(C=C1)C#N | C20H20ClN3O3S
